US06432988B1
c) 4-Methoxy-3-methylthiobenzoic acid
In the course of 10 min, Ph3P (20.5 g, 78 mmol) in a suspension of the mixture of 3-chlorosulfonyl-4-methoxybenzoic acid and ethyl 3-chlorosulfonyl-4-methoxybenzoate (5.1 g, 19.3 mmol, based on the mass average of ester and acid), obtained under b) is introduced in portions into 50 ml of toluene. After addition is complete, the reaction mixture is stirred at RT for 4.5 h. The fine-crystalline precipitate (Ph3P oxide) is filtered off and washed with toluene. The combined filtrates are extracted 4 times with 30 ml of 10% strength sodium hydroxide solution (120 ml) each time. The aqueous-alkaline extracts are combined, treated with dimethyl sulfate (2 ml/21 mmol), stirred at RT for 2 h and finally heated to boiling temperature. The reaction mixture is cooled to RT and acidified to pH 1 using 20% strength hydrochloric acid with ice-cooling. The white precipitate is filtered off, washed with dist. water and dried. Yield 2.8 g (74%)

reactant | Ph3P | 78 mmol, 20.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-chlorosulfonyl-4-methoxybenzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1OC | C8H7ClO5S
reactant | ethyl 3-chlorosulfonyl-4-methoxybenzoate | ClS(=O)(=O)C=1C=C(C(=O)OCC)C=CC1OC | C10H11ClO5S
reactant | dimethyl sulfate | 21 mmol, 2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methoxy-3-methylthiobenzoic acid | COC1=C(C=C(C(=S)O)C=C1)C | C9H10O2S
